US04775677
[3-Pentyl-2-(pentylimino)-4-oxo-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 1 from N,N'-dipentylthiourea (31.4 g, 150 mmoles) and acetylenedicarboxylic acid (17.1 g, 150 mmoles). Recrystallization from acetonitrile gave the product (20.6 g), mp 85°-88° C.

reactant | N,N'-dipentylthiourea | 150 mmoles, 31.4 g | C(CCCC)NC(=S)NCCCCC | C11H24N2S
reactant | acetylenedicarboxylic acid | 150 mmoles, 17.1 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [3-Pentyl-2-(pentylimino)-4-oxo-5-thiazolidinylidene]acetic acid | 20.6 g | C(CCCC)N1C(SC(C1=O)=CC(=O)O)=NCCCCC | C15H24N2O3S
